US08557983B2
(S)-tert-butyl 1-(tetrahydro-2H-pyran-4-yl)piperidin-3-ylcarbamate
The title compound was prepared by substituting dihydro-2H-pyran-4(3H)-one for 4′-chlorobiphenyl-2-carboxaldehyde and (S)-tert-butyl piperidin-3-ylcarbamate for tert-butyl piperazine-1-carboxylate on EXAMPLE 1A.

reactant | 4′-chlorobiphenyl-2-carboxaldehyde | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9ClO
reactant | (S)-tert-butyl piperidin-3-ylcarbamate | N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | (S)-tert-butyl 1-(tetrahydro-2H-pyran-4-yl)piperidin-3-ylcarbamate | O1CCC(CC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C15H28N2O3
